US07863291B2
To (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (0.207 g, 0.905 mmol) in N,N-dimethylformamide (20 mL) was added Cs2CO3 (0.737 g, 2.263 mmol) and 5-bromo-3-isothiocyanatoisoquinoline (0.24 g, 0.905 mmol). The suspension was stirred at room temperature for 30 minutes. N,N′-Diisopropylcarbodiimide (0.423 mL, 2.72 mmol) was then added and the mixture was stirred at room temperature for 18 hours. The mixture was concentrated and purified by silica gel chromatography (5-15% [9.5:0.5 methanol:ammonium hydroxide]-ethyl acetate). The desired fractions were concentrated and further purified using 5-15% [9.5:0.5 methanol:ammonium hydroxide] in ethyl acetate to afford (R)—N-(5-bromoisoquinolin-3-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (0.248 g, 0.634 mmol, 70% yield) as a yellow solid. 1H NMR (400 MHz, MeOD) δ ppm 8.99 (1H, s), 7.91 (2H, dd), 7.55 (1H, br. s.), 7.28 (1H, t), 3.96 (1H, d), 3.65 (1H, d), 3.17-3.26 (1H, m), 3.03-3.13 (1H, m), 2.70-2.99 (4H, m), 2.03-2.30 (2H, m), 1.47-1.87 (3H, m). LCMS:R.T.=1.69; [M+2]+=389.21.

reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 0.905 mmol, 0.207 g | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | Cs2CO3 | 2.263 mmol, 0.737 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 5-bromo-3-isothiocyanatoisoquinoline | 0.905 mmol, 0.24 g | BrC1=C2C=C(N=CC2=CC=C1)N=C=S | C10H5BrN2S
reactant | N,N′-Diisopropylcarbodiimide | 2.72 mmol, 0.423 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (R)—N-(5-bromoisoquinolin-3-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.634 mmol, 0.248 g, 70% yield | BrC1=C2C=C(N=CC2=CC=C1)NC=1O[C@]2(CN3CCC2CC3)CN1 | C18H19BrN4O
